US06268387B1
3-[3-(3,4-Dichlorophenyl)-thioureido]-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.972 g, 4.00 mmol) and 3,4-dichlorophenyl isothiocyanate (0.82 g, 4.02 mmol) to afford the product (1.40 g) in two crops; m.p. 174-175° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.00 mmol, 0.972 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 3,4-dichlorophenyl isothiocyanate | 4.02 mmol, 0.82 g | ClC=1C=C(C=CC1Cl)N=C=S | C7H3Cl2NS
product | 3-[3-(3,4-Dichlorophenyl)-thioureido]-4-methoxy-N-phenyl-benzamide | 1.40 g | ClC=1C=C(C=CC1Cl)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)=S | C21H17Cl2N3O2S
